US04652521
Adenylate Cyclase Assay
This step involves incubation of the sample with ATP and calmodulin to generate cAMP. The assay may be initiated at any time within 48 hours of specimen collection, usually at a central laboratory. The assay is carried out in a sterile solution which encourages bacterial viability (e.g. Stainer-Scholte medium, Stainer, D. W. and Scholte, M. J., A simple chemically defined medium for the production of phase I Bordetella pertussis. J. Gen. Microbiol. 63:211-220, 1971) supplemented with 200 nM to 5 mM (e.g. about 1 mM) adenosine triphosphate, 0,05 μM to 5 μM (e.g. about 0.1 μM) calmodulin, and radiolabeled cAMP in 1 nM to 200 nM concentration as appropriate for optimal sensitivity. Alternatively, any medium which permits the preservation and short term survival of Bordetella may be substituted. The assay solution is maintained frozen at about -20° C. until the day of use. The assay solution is thawed. The cap is removed from the transport tube and a measured amount of 0.5 to 2 ml (e.g. about 1 ml) of assay medium is added on top of the transport medium. The swab is not removed. The tube is capped and incubated at 35°-37° C. upright with rotation for 24 to 48 hours.

reactant | ATP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | cAMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
product | Adenylate | C1=NC2=C(C(=N1)N)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | C10H14N5O7P
